US06492383B1
[6-(4-{[2-(4H-Imidazol-4-yl)-ethylamino]-methyl}-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine
The title compound was prepared from histamine and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. The product was converted to the mesylate salt analogous to example 17 being converted to the HCl salt. 1H NMR (400 MHz, DMSO) d 11.1 (s, 1H), 9.61 (s, 1H), 8.47 (s, 1H), 7.83 (m, 3H), 7.66 (s, 1H), 7.57 (m, 2H), 7.38 (m, 2H), 7.24 (m, 1H), 6.95 (s, 1H), 6.42 (s, 1H), 4.22 (s, 2H), 3.15 (m, 2H)2.82 (m, 2H); LC-MS: 466 (MH+); HPLC RT: 3.76 minutes.

reactant | histamine | NCCC1=CNC=N1 | C5H9N3
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
reactant | HCl | Cl | ClH
product | [6-(4-{[2-(4H-Imidazol-4-yl)-ethylamino]-methyl}-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine | N=1C=NC(C1)CCNCC1=CC=C(C=C1)C1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C26H23N7S
